US08404649B2
Preparation 52: 4-Formyl-naphthalene-1-carboxylic acid methyl ester
To a stirred solution of 4-bromomethyl-naphthalene-1-carboxylic acid methyl ester (Preparation 51, 10.5 g, 37.63 mmol) in DMSO (99.36 mL) was added sodium bicarbonate (6.32 g, 75.27 mmol) at room temperature. Resulting reaction mixture was heated at 95° C. for 3 hours. Progress of the reaction was monitored by TLC using 10% EtOAc in hexane. Rf of new spot and starting material was 0.7 and 0.8 respectively. After consumption of starting material, reaction mixture was quenched with water (400 mL) and extracted with EtOAc (2×300 mL). Combined organic layer was dried over sodium sulphate and evaporated off in vacuo to get brown colored thick mass. Crude compound was purified by column chromatography using 100-200 mesh silica gel. Desired product was eluted in 4.5% EtOAc in hexane to afford faint green solid (4.2 g, 52.17%). Compound the same as that from Preparation 3.

reactant | 4-bromomethyl-naphthalene-1-carboxylic acid methyl ester | 37.63 mmol, 10.5 g | COC(=O)C1=CC=C(C2=CC=CC=C12)CBr | C13H11BrO2
reactant | sodium bicarbonate | 75.27 mmol, 6.32 g | C([O-])(O)=O.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 99.36 mL | CS(=O)C | C2H6OS
solvent | hexane | CCCCCC | C6H14
product | 4-Formyl-naphthalene-1-carboxylic acid methyl ester | 4.2 g, 52.17% | COC(=O)C1=CC=C(C2=CC=CC=C12)C=O | C13H10O3
